2149-11-07 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned levophed but unable to get it off.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-6**] 09:50 PM
   Vancomycin - [**2149-11-6**] 09:50 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-11-7**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-11-7**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 73 (67 - 84) bpm
   BP: 114/63(75) {101/52(63) - 126/80(87)} mmHg
   RR: 21 (21 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 86 - 86
   Total In:
                                                                    698 mL
                                                                     89 mL
   PO:
   TF:
   IVF:
                                                                    698 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,302 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   157 K/uL
   9.4 g/dL
   99 mg/dL
   5.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   18 mg/dL
   111 mEq/L
   143 mEq/L
   31.7 %
   12.9 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
   WBC
   12.9
   Hct
   31.7
   Plt
   157
   Cr
   5.2
   TropT
   0.05
   Glucose
   99
   Other labs: CK / CKMB / Troponin-T:11//0.05, Lactic Acid:0.9 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52 yo F w/ ESRD s/p failed renal transplant still on immunosuppression
   p/w hypotension and fevers.
   #  Hypotension: Only slightly responded to 4L NS, lactate normal but
   does appear to be septic would be most likely explanation though quite
   possibly adrenally insufficient also. Sources of sepsis would be CMV as
   VL climbed from [**10-27**] to [**11-2**] on therapy, abdominal abscess could be
   fairly asymptomatic w/ this level of immunosuppression. Pt. had recent
   pseudamonas bacteremia and C diff colitis could have seeded blood from
   colon/abdominal abscess.
   - F/u blood cultures from NESH ([**Telephone/Fax (1) 9805**] when lab opens in am.
   - KUB
   - IV vanc, IV cefepime, PO vanc, IV gancyclovir
   - Stress dose steroids
   - blood cultures
   - Levophed
   - recheck lactate and SVO2
   - CT abdomen in am
   - ID consult in am
   - Stool for C.diff
   - One more set cardiac enzymes
   .
   #ESRD: S/P failed transplant w/ FSGS but not rejection, renal team
   hopes for her graft to improve, so she is maintained on
   immunosuppression.  No urgent need for dialysis as lytes stable
   currently
   - HD dose meds
   - Will need dialysis after CT
   - Tacrolimus 4.5mg [**Hospital1 **], Prednisone 10mg QD after stress dose steroids
   .
   #CMV viremia: Appears to be getting worse, would consider lightening
   immunosuppresion.
   - Appreciate transplant renal recs
   - Gancyclovir
   - ID consult
   .
   #DMII:
   - SSI
   .
   #Lupus: Not currently active
   - steroids
   .
   #Anemia: Chronic, Hct slightly above baseline. Likely [**12-30**] chronic renal
   failure
   - Limit blood draws
   - EPO
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, RIJ
   # CODE:  Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   20 Gauge - [**2149-11-6**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-11-07 10:29:00 Physician Attending Progress Note
Chief Complaint: Hypotension and fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52yoF with ESRD on HD, SLE, HTN, hypothyroidism, s/p failed transplant
   still on immunosuppresions, sent from rehab with hypotension and
   fevers.  She had recent cdiff colitis in [**8-6**], but restarted prior to
   admission empirically.  Also history of CMV viremia on gancylovir.
   She was admitted overnight with HoTN unresponsive to 4L fluid and
   required CVL placement and required levophed with evidence of sepsis.
   Her mental status was at baseline, lactate normal, and she is anuric at
   baseline.
   24 Hour Events:
   She was admitted to the ICU, complained of mild abdominal pain.  Denied
   cough/dyspnea/pain.
   She was weaned off levophed overnight.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-6**] 09:50 PM
   Vancomycin - [**2149-11-6**] 09:50 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-11-7**] 09:18 AM
   Other medications:
   neprhocaps
   ASA 325mg
   Hydrocortisone 100mg q8h
   Insulin sliding scale
   Tacrolimus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-11-7**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 86 (67 - 86) bpm
   BP: 113/76(85) {101/52(63) - 126/80(87)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 86 - 86
   Total In:
                                                                  5,698 mL
                                                                    320 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    698 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,698 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Chest:  clear lungs, no crackles or bronchial breath sounds
   CV:  RRR
   Abd: s/nt/nd
   Ext: no edema, warm/well-perfused
   Labs / Radiology
   9.4 g/dL
   157 K/uL
   99 mg/dL
   5.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   18 mg/dL
   111 mEq/L
   143 mEq/L
   31.7 %
   12.9 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
   WBC
   12.9
   Hct
   31.7
   Plt
   157
   Cr
   5.2
   TropT
   0.05
   Glucose
   99
   Other labs: CK / CKMB / Troponin-T:11//0.05, Differential-Neuts:76%,
   Band:7%, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL,
   PO4:4.4 mg/dL
   Fluid analysis / Other labs: Tacro: pending
   CK: 10
   trop: 0.06
   Imaging: CXR: clear lung fields
   Microbiology: Blood cultures: pending
   OSH cultures: pending
   Assessment and Plan
   52F with ESRD secondaryto SLE; admitted with recurrent fevers and HoTN
   suggestive of sepsis.
   1.  Hypotension: no evidence of end-organ hypoperfusion with normal
   mental status, no elevation in lactate; she is anuric at baseline.
   Given bandemia, fevers, leukocytosis, HoTN, suspect infectious
   etiology, though unclear source of infection but concern for her recent
   abdominal pain with possible occult abdominal abscess.
   - Empiric antibiotics for sepsis
   - straight cath to evaluate urine
   - Abd CT today
   - stress dose steroids
   2.  Sepsis:
   - vancomycin, zosyn, PO vancomycin, gancyclovir
   - ID consult
   - await cultures, cdiff, CMV
   3.       Renal:  currently on HD
   - continue tacro; currently on stress dose hydrocortisone.
   - plan to dialyze after HD
   ICU Care
   Nutrition:  NPO, awaiting abdominal CT
   Glycemic Control:  Regular insulin sliding scale, standing long-acting
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:  Patient updated during rounds
   Code status:  Full code
   Disposition : Critically ill with sepsis/hypotension ; remain in ICU
   Total time spent:  35minutes CCT

2149-11-08 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension
   24 Hour Events:
   Renal asked us to add on CMV resistance genotype.
   Dialyzed post CT scan with minimal fluid removal.
   NE [**Hospital1 2706**] cultures NGTD
   C.diff ordered->negative
   Tacro lvl 3.6, per renal keep as is, overall level of immunosuppresion
   currently is very low.
   Flu negative, d/c'd precautions.
   CT abd./pelvis initial read over the telephone showed ? early
   diverticulitis but "clinical correlation needed".
   She peed while having a BM so unable to straight cath for U/A.
   ID says likely a recurrence of CMV viremia as she was probably supposed
   to be on suppressive valgancyclovir, continue current managment/abx for
   now. CMV not enough to cause sepsis alone.
   Off pressors at 6am
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsBactrim Ds (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-6**] 09:50 PM
   Piperacillin - [**2149-11-7**] 10:03 AM
   Vancomycin - [**2149-11-7**] 10:30 AM
   Gancyclovir - [**2149-11-7**] 08:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-11-8**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-11-8**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 80 (63 - 89) bpm
   BP: 105/56(68) {83/42(52) - 126/76(85)} mmHg
   RR: 17 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,808 mL
                                                                    296 mL
   PO:
                                                                    960 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    848 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   156 K/uL
   9.2 g/dL
   121 mg/dL
   2.9 mg/dL
   28 mEq/L
   3.3 mEq/L
   9 mg/dL
   103 mEq/L
   141 mEq/L
   30.1 %
   9.3 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
                            [**2149-11-8**]  06:00 AM
   WBC
   12.9
   9.3
   Hct
   31.7
   30.1
   Plt
   157
   156
   Cr
   5.2
   2.9
   TropT
   0.05
   Glucose
   99
   121
   Other labs: PT / PTT / INR:12.0/27.5/1.0, CK / CKMB /
   Troponin-T:11//0.05, Differential-Neuts:77.0 %, Band:10.0 %, Lymph:7.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: CT A/P:
   1. There is uncomplicated sigmoid diverticulitis. No evidence of
   abscess
   formation or perforation.
   2. There is a dilated main pancreatic duct worsened since [**2146**]. The
   pancreas
   center should be consulted to further evaluate for possible segmental
   IPMN.
   3. Unchanged right anterior abdominal wall seroma.
   4. Transplanted kidney shows slightly more perinephric stranding, but
   no
   evidence of acute abscess or infection.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2149-11-8**]):
         Feces negative for C.difficile toxin A & B by EIA.
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2149-11-7**]):
         Negative for Influenza A.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2149-11-7**]):
         Negative for Influenza B.
   CMV Viral Load (Pending):
   Bld cx [**11-6**] pending
   NESH CX NGTD as of [**11-7**]
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   52 yo F w/ ESRD s/p failed renal transplant still on immunosuppression
   p/w hypotension and fevers.
   #  Hypotension: Significantly improved, off of levophed. No e/o cardiac
   ischemia. Some ? diverticulitis on CT a/p may explain some of it.
   C.diff negative. Other cultures NGTD. CMV viremia likely a recurrence
   per ID as he should have been on suppressive valgancyclovir but was
   not. CMV VL going up was prior to starting gancyclovir so likely not a
   resistance.
   - f/u CMV VL and resistance genotype.
   - IV vanc, IV pip/tazo,IV gancyclovir. Can likely stop PO vanc given
   negative C.diff
   - Stress dose steroids
   - blood cultures
   - f/u ID recs
   -f/u NESH cx
   .
   #ESRD: Electrolytes non urgent. Will need to discuss with renal team
   risk/benefits of continued immunosuppression.
   - HD dose meds
   - Tacrolimus 4.5mg [**Hospital1 **], Prednisone 10mg QD after stress dose steroids
   .
   #CMV viremia: Appears to be getting worse, would consider lightening
   immunosuppresion. Renal to discus with primary nephrologist
   - Appreciate transplant renal recs
   - Gancyclovir
   - ID recs
   .
   #DMII:
   - SSI
   .
   #Lupus: Not currently active
   - steroids
   .
   #Anemia: Chronic, Hct slightly above baseline. Likely [**12-30**] chronic renal
   failure
   - Limit blood draws
   - EPO
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS:  RIJ
   # CODE:  Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: Call out of unit to floor if stable off pressors later today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2149-11-08 08:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 9840**] for key portions of the services provided.  I agree with the
   housestaff note above, including assessment and plan.
   HPI:
   52yo lady with ESRD on HD, SLE, HTN, hypothyroidism, s/p failed
   transplant still on immunosuppresions, sent from rehab with hypotension
   and fevers.  She had recent cdiff colitis in [**8-6**], but restarted prior
   to admission empirically.  Also history of CMV viremia on gancylovir.
   Source of sepsis still unclear.
   24 Hour Events:
   CT of abdomen yesterday shows ?early diverticulitis
   dialyzed after CT (no fluid taken off)
   c. diff neg
   flu swab neg
   urine not cultured [**12-30**] oliguria
   Back on levophed o/n with HD
   History obtained from Patient
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-6**] 09:50 PM
   Piperacillin - [**2149-11-7**] 10:03 AM
   Vancomycin - [**2149-11-7**] 10:30 AM
   Gancyclovir - [**2149-11-7**] 08:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-11-8**] 12:49 AM
   Other medications:
   Heparin SC TID
   ISS
   Nephrocaps
   Pantoprazole 40 daily
   ASA 325 daily
   Atovaquone 1500 mg daily
   Hydrocortisone 100 mg IV Q8
   Vancomycin (got 500 mg IV x 1 after HD yesterday)
   Ganciclovir 110 mg QHD (next HD mon)
   Tacro 4.5 PO Q12
   Vanco oral liquid 125 PO Q6
   Zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing normal, no cough, no CP. Had abdominal pain and
   nausea/vomiting on admission, which has now resolved.
   Flowsheet Data as of  [**2149-11-8**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 80 (63 - 89) bpm
   BP: 105/56(68) {83/42(52) - 126/76(85)} mmHg
   RR: 17 (17 - 23) insp/min
   SpO2: 98% on RA
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,808 mL
                                                                    306 mL
   PO:
                                                                    960 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    848 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: NAD, sitting up in bed
   Chest: CTA anteriorly
   CV: RRR, [**1-31**] SM at LUSB, JVP flat
   Abd: soft, + BS, no TTP
   Extr: warm, no edema
   Labs / Radiology
   9.2 g/dL
   156 K/uL
   121 mg/dL
   2.9 mg/dL
   28 mEq/L
   3.3 mEq/L
   9 mg/dL
   103 mEq/L
   141 mEq/L
   30.1 %
   9.3 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
                            [**2149-11-8**]  06:00 AM
   WBC
   12.9
   9.3
   Hct
   31.7
   30.1
   Plt
   157
   156
   Cr
   5.2
   2.9
   TropT
   0.05
   Glucose
   99
   121
   Other labs: PT / PTT / INR:12.0/27.5/1.0, CK / CKMB /
   Troponin-T:11//0.05, Differential-Neuts:77.0 %, Band:10.0 %, Lymph:7.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Vanco level: 20.6
   Micro:
   c. diff neg
   CMV VL Pending
   Blood cultures: NGTD
   OSH Cx: NGTD
   Abd CT: uncomplicated sigmoid diverticulitis, no abscess, ant abdominal
   wall seroma, slight perinephric stranding around kidney graft
   Assessment and Plan
   52F with ESRD secondaryto SLE; admitted with recurrent fevers and [**Year (4 digits) 9833**]
   suggestive of sepsis.
   1.  Hypotension: likely [**12-30**] sepsis given bandemia, fevers, leukocytosis
   on admission.  Was on levophed O/N with HD, off now, but BPs in the
   80s.  Cultures still unrevealing, h/o c. diff in [**9-5**], but negative
   toxin now.  CT with ?early diverticulitis. Also has CmV viremia,
   although this is unlikely causing her sepsis.  Had abd pain and emesis
   on admission, which per pt is now resolved.
   - small fluid bolus now for recurrent [**Last Name (LF) 9833**], [**First Name3 (LF) **] need to restart
   pressors
   - continue IV vancomycin, zosyn
   - gancyclovir for CMV viremia
   - will d/c po vancomycin (have d/w ID) given neg c. diff toxin now
   - continue stress-dose steroids
   - change to low-residue diet given likely diverticulitis
   - f/up other ID recommendations
   - f/up OSH culture
   2. Renal:  currently on HD, got dialyzed yesterday, no fluid taken off
   given [**First Name3 (LF) 9833**]
   - continue tacro; currently on stress dose hydrocortisone
   - next HD Monday
   - f/up tacro level today
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  PPI
   Communication:  with patient
   Code status:  FULL
   Disposition : ICU
   Total time spent:  30 min CCT

2149-11-09 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Restarted on low -dose levophed for low sats.
   C.diff (-)
   Added AM NPH for prednisone hyperglycemia
   Tried calling OSH [**Telephone/Fax (1) 9848**] micro but ? wrong number.  Will
   reattempt as worked last time.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2149-11-7**] 10:03 AM
   Vancomycin - [**2149-11-7**] 10:30 AM
   Gancyclovir - [**2149-11-7**] 08:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-8**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-11-8**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2149-11-9**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-11-9**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 63 (61 - 91) bpm
   BP: 98/49(61) {63/39(43) - 132/69(80)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,204 mL
                                                                     79 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                  1,164 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   9.0 g/dL
   151 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   30.1 %
   5.1 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
                            [**2149-11-8**]  06:00 AM
                            [**2149-11-9**]  04:07 AM
   WBC
   12.9
   9.3
   5.1
   Hct
   31.7
   30.1
   30.1
   Plt
   157
   156
   142
   Cr
   5.2
   2.9
   4.2
   TropT
   0.05
   Glucose
   99
   121
   151
   Other labs: PT / PTT / INR:12.0/27.5/1.0, CK / CKMB /
   Troponin-T:11//0.05, Differential-Neuts:77.0 %, Band:10.0 %, Lymph:7.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   52 yo F w/ ESRD s/p failed renal transplant still on immunosuppression
   p/w hypotension and fevers.
   #  Hypotension: Significantly improved, off of levophed. No e/o cardiac
   ischemia. Some ? diverticulitis on CT a/p may explain some of it.
   C.diff negative. Other cultures NGTD. CMV viremia likely a recurrence
   per ID as he should have been on suppressive valgancyclovir but was
   not. CMV VL going up was prior to starting gancyclovir so likely not a
   resistance.
   - f/u CMV VL and resistance genotype.
   - IV vanc, IV pip/tazo,IV gancyclovir. Can likely stop PO vanc given
   negative C.diff
   - Stress dose steroids
   - blood cultures
   - f/u ID recs
   -f/u NESH cx
   .
   #ESRD: Electrolytes non urgent. Will need to discuss with renal team
   risk/benefits of continued immunosuppression.
   - HD dose meds
   - Tacrolimus 4.5mg [**Hospital1 **], Prednisone 10mg QD after stress dose steroids
   .
   #CMV viremia: Appears to be getting worse, would consider lightening
   immunosuppresion. Renal to discus with primary nephrologist
   - Appreciate transplant renal recs
   - Gancyclovir
   - ID recs
   .
   #DMII:
   - SSI
   .
   #Lupus: Not currently active
   - steroids
   .
   #Anemia: Chronic, Hct slightly above baseline. Likely [**12-30**] chronic renal
   failure
   - Limit blood draws
   - EPO
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS:  RIJ
   # CODE:  Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: Call out of unit to floor if stable off pressors later today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2149-11-09 08:23:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident and Fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:
   52yo woman with ESRD on HD, SLE, HTN, hypothyroidism, s/p failed
   transplant still on immunosuppresions, sent from rehab with hypotension
   and fevers, here with sepsis, ?[**12-30**] diverticulitis.
   24 Hour Events:
   Back on levophed yesterday afternoon, off since 2:30 am
   History obtained from Patient
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Exfoliative [**Doctor Last Name **]
   Cellcept (Oral) (Mycophenolate Mofetil)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2149-11-7**] 10:03 AM
   Vancomycin - [**2149-11-7**] 10:30 AM
   Gancyclovir - [**2149-11-7**] 08:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2149-11-8**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-11-8**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2149-11-9**] 07:18 AM
   Other medications:
   Insulin NPH + Lantus + SSI
   ASA 325 daily
   Pantoprazole
   Atovaquone
   Hydrocort 100 IV Q8
   Vanco p HD (last on [**11-7**])
   Ganciclovir (p HD)
   Tacrolimus 4.5 PO Q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-11-9**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 65 (61 - 91) bpm
   BP: 107/56(67) {63/39(43) - 132/69(80)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,204 mL
                                                                     91 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                  1,164 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: NAD, awake, eating lunch
   Chest: CTAB
   CV: regular, transmitted fistula sounds to the USB
   Abd: soft, no TTP
   Extr: warm, no edema, good thrill over LUE fistula
   Labs / Radiology
   9.0 g/dL
   142 K/uL
   151 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   30.1 %
   5.1 K/uL
        [image002.jpg]
                            [**2149-11-7**]  05:11 AM
                            [**2149-11-8**]  06:00 AM
                            [**2149-11-9**]  04:07 AM
   WBC
   12.9
   9.3
   5.1
   Hct
   31.7
   30.1
   30.1
   Plt
   157
   156
   142
   Cr
   5.2
   2.9
   4.2
   TropT
   0.05
   Glucose
   99
   121
   151
   Other labs: PT / PTT / INR:12.0/27.5/1.0, CK / CKMB /
   Troponin-T:11//0.05, Differential-Neuts:77.0 %, Band:10.0 %, Lymph:7.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Vanco 12/12:20.6
   Tacro level: pending
   Micro:
   C. diff neg x 1, 2^nd pending
   Blood cultures; NGTD
   CMV PCR: neg
   CXR: none today
   Assessment and Plan
   52F with ESRD secondary to SLE; admitted with recurrent fevers and HoTN
   suggestive of sepsis.
   1.  Hypotension: likely [**12-30**] sepsis given bandemia, fevers, leukocytosis
   on admission  Cultures still unrevealing, h/o c. diff in [**9-5**], but
   negative toxin now.  CT with ?early diverticulitis. CMV VL neg now.
   Off levophed again since early AM.
   - continue IV vancomycin, zosyn
   - gancyclovir for h/o CMV viremia (VL neg now) per ID
   - continue stress-dose steroids today, likely back to regular
   prednisone tomorrow if pressures stable
   - continue low-residue diet
   - f/up other ID recommendations
   - f/up OSH cultures: unable to reach OSH yesterday, will try again
   today
   2. Renal:  currently on HD, got dialyzed Friday
   - continue tacro; currently on stress dose hydrocortisone
   - f/up tacro level
   - next HD tomorrow
   3. DM: on lantus and SSI at rehab, here sugars high likely [**12-30**] steroids
   - Lantus + NPH + ISS
   4. AoCD:
   - Epo with HD, last got on [**11-7**]
   ICU Care
   Nutrition: low residue diet
   Glycemic Control:  see DM above
   Lines:
   Multi Lumen - [**2149-11-6**] 06:17 PM
   22 Gauge - [**2149-11-7**] 12:36 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   Communication:  with patient
   Code status: Full code
   Disposition : ICU for now, may move later today if BPs stable
   Pt is critically ill.
   Total time spent:  31 min CCT